US05114960
2 g of dry diatomaceous earth were stirred in 15 ml of dry benzene and 2 g (9 mmol) of phosphorus pentasulfide and 0.4 g (1.6 mmol) of 2,3,5,6-tetrachloro-p-benzoquinone was added. 0.5 g (1.62 mmol) of methyl 4-[(4-chlorophenyl)(amino)methylene]-3-oxocycloheptanecarboxylate was added and the mixture was heated under reflux for 0.5 hour. The mixture was filtered and the filter cake was washed with six 20 ml portions of hot ethyl acetate. The combined filtrate and washings were evaporated and the residue, after chromatography on silica gel using 30% ethyl acetate/hexane for the elution and recrystallization from methylcyclohexane, gave 0.18 g of methyl 3-(4-chlorophenyl)-5,6,7,8-tetrahydro-4H-cyclohept[d]isothiazole-7-carboxylate of melting point 108°-109° C.

reactant | phosphorus pentasulfide | 9 mmol, 2 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | 2,3,5,6-tetrachloro-p-benzoquinone | 1.6 mmol, 0.4 g | ClC=1C(C(=C(C(C1Cl)=O)Cl)Cl)=O | C6Cl4O2
reactant | methyl 4-[(4-chlorophenyl)(amino)methylene]-3-oxocycloheptanecarboxylate | 1.62 mmol, 0.5 g | ClC1=CC=C(C=C1)C(=C1C(CC(CCC1)C(=O)OC)=O)N | C16H18ClNO3
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | methyl 3-(4-chlorophenyl)-5,6,7,8-tetrahydro-4H-cyclohept[d]isothiazole-7-carboxylate | 0.18 g | ClC1=CC=C(C=C1)C1=NSC2=C1CCCC(C2)C(=O)OC | C16H16ClNO2S
